US05225412
N-[4-(1-(2-Pyrimidyl)-4-piperazinyl)-2-butynyl]-1,2-benzisothiazole-3-carboxamide
A mixture of 1,2-benzisothiazole-3-carboxylic acid chloride (2.55 g) and 1-(2-pyrimidyl)-4-(4-amino-2-butynyl)piperazine (3.0 g) in dichloromethane (100 ml) was stirred while triethylamine (3.62 ml) was added dropwise. Stirring was continued overnight. After 24 hr, the reaction mixture was diluted with water, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated in vacuo. The resiude was recrystallized from dichloromethane/ether/hexane to provide 3.67 g (72.3%) of product, mp 102°-104° C.

reactant | 1,2-benzisothiazole-3-carboxylic acid chloride | 2.55 g | S1N=C(C2=C1C=CC=C2)C(=O)Cl | C8H4ClNOS
reactant | 1-(2-pyrimidyl)-4-(4-amino-2-butynyl)piperazine | 3.0 g | N1=C(N=CC=C1)N1CCN(CC1)CC#CCN | C12H17N5
reactant | triethylamine | 3.62 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-[4-(1-(2-Pyrimidyl)-4-piperazinyl)-2-butynyl]-1,2-benzisothiazole-3-carboxamide | 3.67 g, 72.3% | N1=C(N=CC=C1)N1CCN(CC1)CC#CCNC(=O)C1=NSC2=C1C=CC=C2 | C20H20N6OS
